US06635647B2
A solution of (S)-3-benzo[1,2,5]thiadiazol-5-yl-2-methyl-propan-1-ol (5 g, 24 mmol) in EtOH (60 ml) is cooled to 0° and then treated with half concentrated HCl (40 ml, ca. 200 mmol). Zn dust (8.5 g, 130 mmol) is added in 1 g portions at 0°, one portion every 5 minutes. After the last addition, the mixture is stirred at 10° to 15° for 45 minutes. Under ice cooling, half concentrated NH4OH (40 ml, ca. 290 mmol) is added dropwise. The mixture is filtered over Hyflo, the filtrate concentrated under reduced pressure and the remaining aqueous phase twice extracted with EtOAc (150 ml, 50 ml). Drying over Na2SO4 and evaporation give the diamnino intermediate as a brownish, clear oil which tends to darken upon exposure to light and air. This intermediate is dissolved in absolute EtOH (60 ml) and cooled to 0°. 1,4dioxane-2,3-diol (3.75 g, 31.2 mmol) is added at once and the solution stirred at room temperature for 2 h. The mixture is evaporated to dryness, the residue distributed between brine (50 ml) and DCM (50 ml), the organic phase washed with brine (25 ml), dried over Na2SO4 and evaporated to afford (S)-2-methyl-3-quinoxalin-6-yl-propan-1-ol as a brownish, clear, viscous oil of sufficient purity for the next step. ee=91% (HPLC on chiral stat. phase). TLC (silicagel, DCM/MeOH/NH4OH 85:15:1): rf 0.68.

reactant | (S)-3-benzo[1,2,5]thiadiazol-5-yl-2-methyl-propan-1-ol | 24 mmol, 5 g | N1=C2C(=NS1)C=C(C=C2)C[C@@H](CO)C | C10H12N2OS
reactant | HCl | ca. 200 mmol, 40 ml | Cl | ClH
reactant | NH4OH | ca. 290 mmol, 40 ml | [NH4+].[OH-]
reactant | 1,4dioxane-2,3-diol | 31.2 mmol, 3.75 g | O1C(C(OCC1)O)O | C4H8O4
solvent | EtOH | 60 ml | CCO | C2H6O
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | Zn | 130 mmol, 8.5 g | [Zn] | Zn
product | (S)-2-methyl-3-quinoxalin-6-yl-propan-1-ol | C[C@H](CO)CC=1C=C2N=CC=NC2=CC1 | C12H14N2O
